US07253286B2
7-Benzyloxy-6-cyano-4-(1H-indol-5-yloxy)quinoline
After suspending 7-benzyloxy-6-cyano-4-chloroquinoline (23 g, 78.03 mmol) in N-methylpyrrolidone (15.8 ml), there were added 5-hydroxyindole (12.5 g, 83.64 mmol) and diisopropylethylamine (15.8 ml) and the mixture was heated and stirred at 150° C. for 10 hours. After allowing it to cool to room temperature, water and tetrahydrofuran were added and the crystals were thoroughly dissolved. After extraction with tetrahydrofuran, washing with saturated brine, drying over anhydrous magnesium sulfate and distilling off of the solvent, the residue was adsorbed onto silica gel. Purification was performed by silica gel column chromatography (hexane/tetrahydrofuran system), and then concentrated hydrochloric acid (0.2 ml) was added at room temperature and the mixture was stirred for 17 hours. The solvent was distilled off under reduced pressure, saturated sodium bicarnobate water was added, and then extraction was performed with a tetrahydrofuran and ethyl acetate mixed solvent, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The obtained crystals were suspended in ethyl acetate and diluted with diethyl ether and hexane. The crystals were filtered out, washed with diethyl ether/hexane and dried by aspiration to obtain the title compound (12.5 g, 31.93 mmol, 40.92%) as light yellow crystals.

reactant | 7-benzyloxy-6-cyano-4-chloroquinoline | 78.03 mmol, 23 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)C#N | C17H11ClN2O
reactant | 5-hydroxyindole | 83.64 mmol, 12.5 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | diisopropylethylamine | 15.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 15.8 ml | CN1C(CCC1)=O | C5H9NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Benzyloxy-6-cyano-4-(1H-indol-5-yloxy)quinoline | 31.93 mmol, 12.5 g, 40.92% | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C=C2C=CNC2=CC1)C#N | C25H17N3O2
